US06727267B2
5-(3,4-dichlorophenylmethylene)-3-(methanesulfonylamino)-4-oxo-2-thionothiazolidine:
3-(Methanesulfonylamino)-4-oxo-2-thionothiazolidine 269 mg (1.19 mmol, 1.0 equiv) was dissolved in 3 mL MeOH followed by the addition of 208 mg 3,4-dichlorobenzaldehyde (1.19 mmol, 1.0 equiv) and 10 mg NaOAc (0.119 mmol, 0.1 equiv). The solution was allowed to stir for 24 hours, at which time the yellow solid was removed by filtration. The solid was washed (4×MeOH) and dried under vacuum to give the 248 mg of the product as a yellow solid (0.649 mmol, 55%). 1H NMR (DMSO, 400 MHz) δ 8.01 (d, J=1.0 Hz, 1 H), 7.95 (s, 1 H), 7.84 (d, J=8.4 Hz, 1 H), 7.63 (dd, J=2.1, 8.4 Hz, 1 H), 3.28 (s, 3 H).

reactant | 3-(Methanesulfonylamino)-4-oxo-2-thionothiazolidine | 1.19 mmol, 269 mg, 1.0 equiv | CS(=O)(=O)NN1C(SCC1=O)=S | C4H6N2O3S3
reactant | 3,4-dichlorobenzaldehyde | 1.19 mmol, 208 mg, 1.0 equiv | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | NaOAc | 0.119 mmol, 10 mg, 0.1 equiv | CC(=O)[O-].[Na+]
solvent | MeOH | 3 mL | CO | CH4O
product | 5-(3,4-dichlorophenylmethylene)-3-(methanesulfonylamino)-4-oxo-2-thionothiazolidine | 0.649 mmol, 248 mg, 55% | ClC=1C=C(C=CC1Cl)C=C1C(N(C(S1)=S)NS(=O)(=O)C)=O | C11H8Cl2N2O3S3
